US05770584
Into a two neck 25 ml round bottom flask equipped with an air condenser, thermometer and stir bar, was placed 2.0 g (0.005 mol) of (+)-1-hexadecylthio-2-methoxy-3-bromopropane, 0.5 ml (0.006 mol) of N,N-dimethylaminoethanol and 15 ml of DMF. The solution was maintained at 45°-50° C. for 72 hours with continuous stirring. The reaction mixture was then cooled to room temperature, 125 ml of ether was added and the solution was kept at 0° C. for 24 hours. The resulting precipitate (800 mg) was filtered and swirled with five 50 ml portions ofetherto give (±)-3-hexadecylthio-2-methoxy-N,N-dimethyl-N-β-hydroxyethyl-1 -propyl ammonium bromide (32%), (mp 107°-109° C.). 1 H-NMR (CDCl3): delta, 0.87 (t, 3 H, terminal methyl), 1.2-1.6[m, 28 H, (CH2)14 ],2.45-3.0(m, 4 H, S-C2, CH2 -S), 3.48[s, 9 H, CH3 -O, N(CH3)2 ], 3.9-4.3(m, 7 H, CH, CH2N, N-CH2 -CH2 -OH). Anal. (C24H52NO2SBr) C,H,N.

reactant | (+)-1-hexadecylthio-2-methoxy-3-bromopropane | 0.005 mol, 2.0 g | C(CCCCCCCCCCCCCCC)SCC(CBr)OC | C20H41BrOS
reactant | N,N-dimethylaminoethanol | 0.006 mol, 0.5 ml | CN(C)CCO | C4H11NO
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ether | 125 ml | CCOCC | C4H10O
product | (±)-3-hexadecylthio-2-methoxy-N,N-dimethyl-N-β-hydroxyethyl-1 -propyl ammonium bromide | 32% | [Br-].C(CCCCCCCCCCCCCCC)SCC(C[N+](CCO)(C)C)OC | InChI=1S/C24H52NO2S.BrH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-28-23-24(27-4)22-25(2,3)19-20-26;/h24,26H,5-23H2,1-4H3;1H/q+1;/p-1
